US03991197
41.25 G. of 4'-nitroacetophenone are suspended in 500 ml. of water and heated at 70° C. with stirring. Then, 24 ml. of isonicotinaldehyde are added and the reaction mixture is treated three times at intervals of 30 minutes with 5 ml. each time of a 6% NaOH solution in water/methanol (2:1). Subsequently the reaction mixture is left to react at 70° C. for 8 hours. The crystals which form are filtered off, boiled up twice with 500 ml. of ethanol each time and subsequently washed with ether to yield 4'-nitro-3-(4-pyridyl)-acrylphenone with a melting point of 218°-221° C.

reactant | 4'-nitroacetophenone | [N+](=O)([O-])C1=CC=C(C=C1)C(C)=O | C8H7NO3
reactant | water | O | H2O
reactant | isonicotinaldehyde | C(C1=CC=NC=C1)=O | C6H5NO
reactant | NaOH | [OH-].[Na+]
solvent | water methanol | O.CO
product | 4'-nitro-3-(4-pyridyl)-acrylphenone | [N+](=O)([O-])C1=CC=C(C=C1)C(C=CC1=CC=NC=C1)=O | C14H10N2O3
